
subckt nmos4_hv B D G S
parameters l w nf
MM0 D G S B nhv l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends nmos4_hv

subckt nmos4_hvesd B D G S
parameters l w nf
MM0 D G S B nhvesd l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends nmos4_hvesd

subckt nmos4_svt B D G S
parameters l w nf
MM0 D G S B nshort l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends nmos4_svt

subckt nmos4_lvt B D G S
parameters l w nf
MM0 D G S B nlowvt l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends nmos4_lvt

subckt nmos4_standard B D G S
parameters l w nf
MM0 D G S B nshort l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends nmos4_standard

subckt pmos4_hv B D G S
parameters l w nf
MM0 D G S B phv l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_hv

subckt pmos4_hvesd B D G S
parameters l w nf
MM0 D G S B phvesd l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_hvesd

subckt pmos4_svt B D G S
parameters l w nf
MM0 D G S B pshort l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_svt

subckt pmos4_lvt B D G S
parameters l w nf
MM0 D G S B plowvt l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_lvt

subckt pmos4_hvt B D G S
parameters l w nf
MM0 D G S B phighvt l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_hvt

subckt pmos4_standard B D G S
parameters l w nf
MM0 D G S B pshort l=l * 1.0e6 w=w * 1.0e6 m=nf mult=1
ends pmos4_standard

subckt ideal_balun d c p n
    K0 d 0 p c transformer n1=2
    K1 d 0 c n transformer n1=2
ends ideal_balun
